US04079063
2-Phenyl-4-hydroxy-5-bromo-1,2,3-triazole
32.2 g of 2-phenyl-4-hydroxy-1,2,3-triazole is stirred in 400 ml of chloroform with 32 g of bromine at room temperature for 16 hours. The solvent is evaporated off and the residue is stirred into petroleum ether and filtered off under suction.

reactant | 2-phenyl-4-hydroxy-1,2,3-triazole | 32.2 g | C1(=CC=CC=C1)N1N=CC(=N1)O | C8H7N3O
reactant | bromine | 32 g | BrBr | Br2
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Phenyl-4-hydroxy-5-bromo-1,2,3-triazole | C1(=CC=CC=C1)N1N=C(C(=N1)O)Br | C8H6BrN3O
